US05262390
A 1M solution of ethylmagnesium bromide in tetrahydrofuran (100 ml) was cooled to 15° C., and a solution of 10.81 g (0.100 mole) of m-cresol was added during a 45 minute period while the temperature was held at 15° C. Upon completion of the addition, the mixture was stirred at room temperature for 30 minutes, and then a mixture of 7.5 g (0.25 mole) of paraformaldehyde and 17.92 g (0.100 mole) of hexamethylphosphoramide in 200 mL of toluene was added in one portion. The resulting solution was heated at 80° C. for approximately seventeen hours, after which the solvent was evaporated under reduced pressure, leaving a yellow residue. This residue was dissolved in diethyl ether, and this solution was extracted with 50 mL of hydrochloric acid and 100 mL of water. The organic phase was separated, washed with water, and dried over anhydrous magnesium sulfate. After filtration the solution was evaporated under reduced pressure, leaving an orange solid as a residue. This solid was placed on a silica gel column and eluted with methylene chloride/petroleum ether (50/50). Evaporation of the solvents yielded 6.30 g of 4-methylsalicylaldehyde as a yellow solid, m.p. 51°-53° C. The NMR and IR spectra were consistent with the proposed structure.

reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | m-cresol | 0.100 mole, 10.81 g | C1=C(C=CC=C1O)C | C7H8O
reactant | paraformaldehyde | 0.25 mole, 7.5 g | C=O | CH2O
reactant | hexamethylphosphoramide | 0.100 mole, 17.92 g | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-methylsalicylaldehyde | 6.30 g | CC=1C=C(C(C=O)=CC1)O | C8H8O2
